US05308869
N-(Adamantan-1-yl)-N'-(cyclohexyl)acetamidine
Adamantyl amine (1.87 g, 10 mmol), triethyl orthoacetate (1.62 g, 10 mmol) and cyclohexyl amine (0.99 g, 10 mmol) were mixed together then placed in preheated oil bath (140° C.) under nitrogen. After 5 min the reaction became exothermic and the reaction mixture became a slurry and upon continuation for 20 min it became a clear colorless solution. Now the reflux condenser was then replaced by distillation condenser and the low volatiles were distilled off at 75°-77° C. (head temperature) and later the undistilled residue was dried on manifold to give a light-yellow solid. The crude product was flash chromatographed on silica gel using chloroform as eluent to afford the title compound (0.076 g, 2.78%) as a white solid.

reactant | Adamantyl amine | 10 mmol, 1.87 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | triethyl orthoacetate | 10 mmol, 1.62 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | cyclohexyl amine | 10 mmol, 0.99 g | C1(CCCCC1)N | C6H13N
product | N-(Adamantan-1-yl)-N'-(cyclohexyl)acetamidine | 0.076 g, 2.78% | C12(CC3CC(CC(C1)C3)C2)NC(C)=NC2CCCCC2 | C18H30N2
